Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p tachyarrhythmia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F smoker with PMH of asthma/COPD on theophylline, CAD, 
HTN, hyperlipidemia, and atypical chest pain presenting with 
malaise and SOB during an episode of tachyarrythmia at home 
which has since resolved.  Pt recalls that she took her VS on 
the telehealth monitor, then nurse called and asked her to 
recheck them.  ___ services came and measured HR at 110s, but pt 
was without CP, SOB, visual sx, HA, palps.  Also denies F/C, 
N/V, abd pain, change in bowel or bladder.  Per her PCP, ___ 
___, the patient does have a history of tachyarrythmias even 
though the patient denies this history.  She also took 
theophylline for some time, although it is not on her med list 
and she states she hasn't taken it since ___.  However, PCP 
concern is that the theophylline may be contributing.  Recent 
stress test with reversible lesion being treated conservatively. 
   
.
In ED VS were 98.8 78 154/82 20 95%.  Has CXR in ED which was 
unremarkable.  Transfer VS were HR=60, BP=126/75, RR=18, POx=94% 
RA
.
On the floor, pt asymptomatic and feels well.  Only upset 
because she's been in the hospital every month so far this year.

 
Past Medical History:
-ASTHMA   
-HYPERTENSION   
-HYPERLIPIDEMIA   
-HEADACHE   
-OSTEOARTHRITIS   
-ATYPICAL CHEST PAIN   
-TOBACCO ABUSE   
-ABNORMAL CHEST XRAY   
-COPD  

 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 

 
Physical ___:
ADMISSION PEx:
VS: 97.9, 155/90, 64, 16@94%(RA)
GA: AOx3, NAD
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.
Pulm: scattered exp wheezing with minimal air movment
Abd: soft, NT, +BS. no g/rt.
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes, eccymoses, lesions 
Neuro/Psych: CNs II-XII intact. ___ strength in muscle groups 
tested, sensation symmetric. 

DISCHARGE PEx:

 
Pertinent Results:
Relevant and representative labs:
CBC and coags:
-___ 03:30PM BLOOD WBC-6.7 RBC-4.40 Hgb-13.2 Hct-38.9 
MCV-88 MCH-29.9 MCHC-33.9 RDW-15.7* Plt ___
-___ 05:55AM BLOOD WBC-5.9 RBC-4.32 Hgb-12.8 Hct-38.4 
MCV-89 MCH-29.6 MCHC-33.2 RDW-15.6* Plt ___
-___ 03:30PM BLOOD ___ PTT-26.2 ___

Chem:
-___ 03:30PM BLOOD Glucose-105* UreaN-18 Creat-0.9 Na-139 
K-3.5 Cl-101 HCO3-31 
-___ 05:55AM BLOOD Glucose-101* UreaN-20 Creat-0.9 Na-139 
K-4.2 Cl-99 HCO3-32

CEs:
-___ 03:30PM BLOOD cTropnT-<0.01
-___ 09:10PM BLOOD CK-MB-4 cTropnT-<0.01
-___ 05:55AM BLOOD CK-MB-3 cTropnT-<0.01

Misc:
-___ 05:55AM BLOOD Triglyc-96 HDL-50 CHOL/HD-3.2 LDLcalc-90 
Cholest-159
 
Brief Hospital Course:
To Do:
1) follow-up theophylline level
___ yo F smoker with PMH of asthma/COPD managed with theophylline 
until ___ when theophylline was discontinued because of 
tachycardia, CAD, HTN, and hyperlipidemia who presented from 
home with asymptomatic tachyarrythmia.
.  
ACTIVE ISSUES:
.
# Tachycarrhymia in context of recent inducible ischemia seen on 
ECHO stress test (___):  At the time of admission, her 
symptoms had resolved, no abnormalities were seen on imaging or 
labs, and her VS and PEx were remarkable only for non-acute lung 
findings.  MI was ruled out by trop negative x3, no EKG changes. 
 Cardiology was consulted to evaluate need for catheterization 
vs other intervention, but did not feel that any urgent 
inpatient work-up was necessary, especially in the context of 
asymptomatic tachycardia.  She had already had Holter and ECHO 
prior to this admission.  Cardiology recommended restarting 
theophylline if, in fact, she received such benefit from 
pulmonary point of view.  She was restarted on theophylline 
200mg TID, which was her dose prior to discontinuation.  She 
received tobacco cessation education, was continued on home 
diltiazem and aspirin (dose was temporarily increased to 325mg 
prior to ruling out MI).  Admission theopylline level was 
pending at the time of discharge.
.  
# Asthma and COPD: patient was given Albuterol and ipratropium 
nebs, and she was continued on her home doses of fluticasone, 
montelukast, fluticasone-salmetrol.  She was given O2 PRN.  
After cardiology consult, she was restarted on her theophylline 
at 200mg TID, with pulm and cardiology follow-up.
.  
# Tobacco abuse: she declined nicotine patch, and education was 
given regarding the health hazards of smoking.
.  
# HL: patient was continued oh her simvastatin, but because her 
LDL was not at goal (<70), her dose was increased to 40mg daily.
.
INACTIVE ISSUES:
.
# HTN: continued isosorbide and hydrochlorothiazide at home 
doses.
.
# Code: Full
 
Medications on Admission:
-acetaminophen 325 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.  
-albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2)  Inhalation every ___ hours.  
-diltiazem HCl 180 mg Capsule, Extended Release Sig: Two (2) 
Capsule, Extended Release PO DAILY (Daily).  
-fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
-fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
-hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
-isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
-montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
-omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
-tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
-calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO DAILY (Daily).  
-multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
-aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
-simvastatin 20mg qday
 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. fluticasone 50 mcg/Actuation Spray, Suspension Sig: ___ 
Sprays Nasal DAILY (Daily) as needed for congestion.  
4. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
5. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
7. acetaminophen-codeine 300-30 mg Tablet Sig: One (1) Tablet PO 
every four (4) hours as needed for pain.  
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every ___ hours as needed for shortness 
of breath or wheezing.  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1) capsule Inhalation once a day.  
11. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
12. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO DAILY (Daily).  
13. diltiazem HCl 180 mg Capsule, Extended Release Sig: Two (2) 
Capsule, Extended Release PO DAILY (Daily).  
14. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. theophylline 200 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO three times a day.
Disp:*90 Capsule, Ext Release 24 hr(s)* Refills:*0*
16. albuterol sulfate 0.63 mg/3 mL Solution for Nebulization 
Sig: One (1) treatment Inhalation every ___ hours as needed for 
shortness of breath or wheezing for 15 doses.
Disp:*15 ampules* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Tachyarrhythmia
-Hyperlipidemia
-Asthma, COPD

Secondary:
-Hypertension 
-Tobacco Use  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were hospitalized because the visiting nurses were concerned 
about an elevated heart rate, but by the time ___ came to the 
hospital, your elevated heart rate had resolved.  Nevertheless, 
___ were admitted to ensure that your heart hadn't suffered any 
damage, and to see the inpatient cardiologist.  Your labs were 
unremarkable from a cardiac standpoint, and ___ saw the 
cardiologist (who recommend no intervention at this time).  ___ 
should follow-up with your pulmonologist as an outpatient for 
your breathing issues.  The best thing ___ can do for your lung 
health is to quit smoking, and we encourage ___ to do so.

The following changes were made to your medications:
-INCREASE your simvastatin to 40mg daily in order to lower your 
cholesterol to goal (as recommended by the cardiologist)
-RESTART theophylline 200mg three times a day
-We will also be giving ___ a prescription for albuterol 
nebulizers to use instead of your inhaler (when needed), but 
refills will have to be through your primary physician or 
pulmonologist

___ discuss your theophylline dose and breathing status with 
your primary provider (Dr. ___ and your pulmonologist (Dr. 
___.  
 
Followup Instructions:
___